US04327102
2-(((4-Chlorophenyl)sulphinyl)methyl)pyridine
A suspension of 2-(((4-chlorophenyl)thio)methyl)pyridine, hydrochloride (2.0 g) in methylene chloride (50 ml) at 0° C. was treated with a solution of m-chloroperoxybenzoic acid (1.7 g) in CH2Cl2 (25 ml). The mixture was allowed to warm to ambient temperature and was stirred for 5 hours. The solution was washed with saturated sodium carbonate solution and water, then dried (MgSO4). The residue was dissolved in acetone and converted into the hydrochloride with ethereal HCl. N.m.r. showed approximately 20% of starting material remaining so the material was suspended in methylene chloride (50 ml) and treated with further m-chloroperoxybenzoic acid (2×500 g). The solution was washed with saturated sodium carbonate solution and water, dried (MgSO4) evaporated and the residue was dissolved in acetone and the hydrochloride precipitated with ethereal HCl solution. Recrystallisation from acetone-ether gave the title compound as the hydrochloride (0.7 g) mp 170° C. decomp. (Found: C,49.2; H,3.8; N,4.5 C12H10ClNOS.HCl.1/4H2O requires C,49.2; H,4.0; N,4.8%).

reactant | 2-(((4-chlorophenyl)thio)methyl)pyridine, hydrochloride | 2.0 g | Cl.ClC1=CC=C(C=C1)SCC1=NC=CC=C1
reactant | m-chloroperoxybenzoic acid | 1.7 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(((4-Chlorophenyl)sulphinyl)methyl)pyridine | 0.7 g, 4.8% | ClC1=CC=C(C=C1)S(=O)CC1=NC=CC=C1 | C12H10ClNOS
